US07666888B2
4-[(3-Phenylpyrrolidin-1-yl)carbonyl]-5-(4-vinylphenyl)isoxazole
A mixture of 4-[(3-phenylpyrrolidin-1-yl)carbonyl]-5-(4-iodophenyl)isoxazole (50 mg, 0.11 mmol), 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (50 μL, 0.78 mmol), sodium bicarbonate (20 mg, 0.23 mmol), tris(dibenzylideneacetone)dipalladium(0) (Pd2(dba)3) (2 mg, 0.002 mmol) in 1,2-dimethoxyethane/water (5 mL) was stirred at 60° C. for 1 h. The residue was purified on SiO2 (2:1 hexane/ethyl acetate) to afford the title compound (25 mg). HRMS (ESI, pos. ion) m/z calcd for C22H20N2O2: 344.1525, found 344.1521.

reactant | 4-[(3-phenylpyrrolidin-1-yl)carbonyl]-5-(4-iodophenyl)isoxazole | 0.11 mmol, 50 mg | C1(=CC=CC=C1)C1CN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)I | C20H17IN2O2
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 0.78 mmol, 50 μL | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | sodium bicarbonate | 0.23 mmol, 20 mg | C([O-])(O)=O.[Na+]
solvent | 1,2-dimethoxyethane water | 5 mL | COCCOC.O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.002 mmol, 2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(3-Phenylpyrrolidin-1-yl)carbonyl]-5-(4-vinylphenyl)isoxazole | 25 mg | C1(=CC=CC=C1)C1CN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C=C | C22H20N2O2
